US08809525B2
6-Chloro-5-phenyl-1,2,4-triazin-3-amine (0.38 g, 65%) was prepared from 5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and N-chlorosuccinimide (0.50 g, 3.7 mmol) according to the general procedure of Preparation 3.

reactant | 5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | C1(=CC=CC=C1)C=1N=C(N=NC1)N | C9H8N4
reactant | N-chlorosuccinimide | 3.7 mmol, 0.50 g | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 6-Chloro-5-phenyl-1,2,4-triazin-3-amine | 0.38 g, 65% | ClC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7ClN4
